US07763639B2
2,2,2-TRIFLUORO-1-{2-FLUORO-3-[1-(2-METHOXYETHYL)PIPERIDIN-4-YL]PHENYL}ETHANOL
Preparation according to Example 1: 2,2,2-trifluoro-1-(2-fluoro-3-piperidin-4-ylphenyl)ethanol (0.01 g), acetonitrile (2 ml), potassium carbonate (0.01 g) and 1-bromo-2-methoxyethane (0.01 g). MS m/z (rel. intensity, 70 eV) 335 (M+, 1), 291 (15), 290 (bp), 207 (4), 149 (7).

reactant | 2,2,2-trifluoro-1-(2-fluoro-3-piperidin-4-ylphenyl)ethanol | 0.01 g | FC(C(O)C1=C(C(=CC=C1)C1CCNCC1)F)(F)F | C13H15F4NO
reactant | potassium carbonate | 0.01 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-methoxyethane | 0.01 g | BrCCOC | C3H7BrO
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 2,2,2-TRIFLUORO-1-{2-FLUORO-3-[1-(2-METHOXYETHYL)PIPERIDIN-4-YL]PHENYL}ETHANOL | FC(C(O)C1=C(C(=CC=C1)C1CCN(CC1)CCOC)F)(F)F | C16H21F4NO2
